US07943551B2
Step 2: Synthesis of 3-(2-methoxyethyl)thio-2-methyl-4-trifluoromethylbenzoic acid
1.45 g (6.53 mmol) of 3-fluoro-2-methyl-4-trifluoromethylbenzoic acid were initially charged in 40 ml of DMF. 809 mg (20.2 mmol) of NaH were added a little at a time. After the evolution of gas had ceased, 1.20 g (13.1 mmol) of 2-methoxyethanethiol were added a little at a time. The mixture was stirred at RT for 10 minutes and then heated at 80° C. for 15 h. The reaction mixture was cooled and concentrated under reduced pressure, and for work-up water was added and the mixture was acidified with 1M HCl. The product precipitated and was removed by filtration. The product was then washed with water and n-heptane. What was isolated were 1.7 g of the pure product.

reactant | 3-fluoro-2-methyl-4-trifluoromethylbenzoic acid | 6.53 mmol, 1.45 g | FC=1C(=C(C(=O)O)C=CC1C(F)(F)F)C | C9H6F4O2
reactant | NaH | 20.2 mmol, 809 mg | [H-].[Na+]
reactant | 2-methoxyethanethiol | 13.1 mmol, 1.20 g | COCCS | C3H8OS
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 3-(2-methoxyethyl)thio-2-methyl-4-trifluoromethylbenzoic acid | COCCSC=1C(=C(C(=O)O)C=CC1C(F)(F)F)C | C12H13F3O3S
